US07262212B2
To a suspension of 2-chloro-4-nitro-1H-imidazole (503 mg, 3.41 mmol), 3-(2-methyloxiran-2-yl-methyl)-3H-benzoxazol-2-one (700 mg, 3.41 mmol) in ethanol (7 ml), sodium acetate (336 mg, 4.1 mmol) was added followed by stirring under reflux for 8 hours. The reaction mixture was allowed to return to room temperature. To a mixture, water was added, and the resulting solution was extracted with methylene chloride. The organic phase was dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride/methanol=30/1) to afford 3-[3-(2-chloro-4-nitroimidazol-1-yl)-2-hydroxy-2-methylpropyl]-3H-benzoxazol-2-one (616 mg, yield 51%) as a light yellow powder.

reactant | 2-chloro-4-nitro-1H-imidazole | 3.41 mmol, 503 mg | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | 3-(2-methyloxiran-2-yl-methyl)-3H-benzoxazol-2-one | 3.41 mmol, 700 mg | CC1(OC1)CN1C(OC2=C1C=CC=C2)=O | C11H11NO3
reactant | sodium acetate | 4.1 mmol, 336 mg | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 3-[3-(2-chloro-4-nitroimidazol-1-yl)-2-hydroxy-2-methylpropyl]-3H-benzoxazol-2-one | 616 mg, yield 51% | ClC=1N(C=C(N1)[N+](=O)[O-])CC(CN1C(OC2=C1C=CC=C2)=O)(C)O | C14H13ClN4O5
